US07781431B2
4-cyclohexyl-6-[2-(dimethylamino)-2-oxoethyl]-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylic acid
A solution (0.5 M) of ethyl 4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate in DMF was treated with NaH (2 eq., 60% dispersion in mineral oil), and the suspension was stirred at RT for 30 min, then 2-chloro-N,N-dimethylacetamide (3 eq.) was added. The reaction mixture was heated at 50° C. for 1 h and 25 min. After cooling down, it was diluted with AcOEt and aqueous HCl (1 M) was added. The aqueous phase was separated and extracted with AcOEt. The combined organic phase was washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine then dried and evaporated. The residue was dissolved in THF/MeOH (1:1). The resulting solution (0.07 M) was treated with NaOH (2 N, 6 eq.). The reaction mixture was heated to reflux overnight. After cooling down, the reaction was concentrated and acidified to pH 1 with aqueous HCl (3 N). The resulting mixture was diluted with DMSO and purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 5 micron, 19×150 mm; flow: 20 mL/min; Gradient: A: H2O+0.1% TFA; B: MeCN+0.1% TFA; linear from 95% A to 5% A in 10 min) to afford the title compound (27%) as a solid.

reactant | ethyl 4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate | 0.5 M | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)SC(=C2)C(=O)OCC | C21H23NO2S
reactant | NaH | 2 eq. | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylacetamide | 3 eq. | ClCC(=O)N(C)C | C4H8ClNO
reactant | NaOH | 2 N, 6 eq. | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | HCl | 1 M | Cl | ClH
product | 4-cyclohexyl-6-[2-(dimethylamino)-2-oxoethyl]-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylic acid | 27% | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)CC(=O)N(C)C)SC(=C2)C(=O)O | C23H26N2O3S
